US06455528B1
(3) 1-(5-Bromothiazol-2-yl)piperazine
4-Acetyl-1-(5-bromothiazol-2-yl)piperazine (2.0 g) was dissolved in 6N hydrochloric acid and refluxed under heating for 4.5 hr. The reaction mixture was neutralized with 1N aqueous sodium hydroxide solution and extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated to give a brown oil (1.5 g). The obtained brown oil was purified by silica gel column chromatography (developing solvent; chloroform:methanol=9:1) to give the title compound (1.1 g) as a pale-yellow solid.

reactant | 4-Acetyl-1-(5-bromothiazol-2-yl)piperazine | 2.0 g | C(C)(=O)N1CCN(CC1)C=1SC(=CN1)Br | C9H12BrN3OS
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | hydrochloric acid | 6N | Cl | ClH
product | 1-(5-Bromothiazol-2-yl)piperazine | 1.5 g | BrC1=CN=C(S1)N1CCNCC1 | C7H10BrN3S
